US06048824
Example P1: 3-(2-Chloropyrid-5-yl-methyl)-pyrrolid-2-one
Under a nitrogen atmosphere at a temperature of from -78° C. to -60° C., 180 ml of a 1.5 molar solution of lithium diisopropylamide (LDA) in cyclohexane are added dropwise to 31.4 g of N-trimethylsilylpyrrolid-2-one in 150 ml of tetrahydrofuran (THF) and the reaction mixture is stirred at the same temperature for a further one hour. Then, at from -78° C. to -60° C., 25.5 g of 2-chloro-5-chloromethylpyridine in 40 ml of THF are added, and the mixture is stirred for a further 16 hours at that temperature and then for a further three hours at room temperature. The reaction mixture is poured onto a mixture of ice/water and extracted with ethyl acetate, and the organic phase is separated off. The ethyl acetate phase is dried over sodium sulfate and concentrated to dryness by evaporation in vacuo. The residue is purified on silica gel using ethyl acetate/hexane (7:1) as eluant. The title compound having a melting point of 117-118° C. (compound 1.3) is obtained.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-trimethylsilylpyrrolid-2-one | 31.4 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
reactant | 2-chloro-5-chloromethylpyridine | 25.5 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
product | 3-(2-Chloropyrid-5-yl-methyl)-pyrrolid-2-one | ClC1=NC=C(C=C1)CC1C(NCC1)=O | C10H11ClN2O
